US04496564
A mixture of 2-(4-cyanobutyl)-4-aminopyrimidine (1.0 g.), n-propylisothiocyanate (0.57 g.) and pyridine (25 ml.) was heated under reflux for 3 hours. The solvent was removed by evaporation in vacuo and the residue was purified by medium pressure chromatography on silica gel using CHCl3 /MeOH 9.75:0.25 v/v as eluant. The purified product (0.85 g.) in EtOH (10 ml.) was added to EtOH saturated with ammonia (30 ml.) and mercuric oxide (0.6 g.). After 15 minutes the reaction mixture was filtered through diatomaceous earth and the filtrate was evaporated to give 5-(4-[2-propylguanidino]pyrimid-2-yl)valeronitrile (0.85 g.) which was used without further purification.

reactant | 2-(4-cyanobutyl)-4-aminopyrimidine | 1.0 g | C(#N)CCCCC1=NC=CC(=N1)N | C9H12N4
reactant | n-propylisothiocyanate | 0.57 g | C(CC)N=C=S | C4H7NS
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-[2-propylguanidino]pyrimid-2-yl)valeronitrile | 0.85 g | C(CC)N=C(NC1=NC(=NC=C1)CCCCC#N)N | C13H20N6
